Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Enbrel / Latex / Hayfever / Sulfa (Sulfonamide Antibiotics) / 
Ace Inhibitors / Bactrim
 
Attending: ___.
 
Chief Complaint:
Right buttock pain
 
Major Surgical or Invasive Procedure:
S1-S2 bilateral laminectomy on ___

 
History of Present Illness:
___ year old w/ history of mixed connective tissue disease with 
elements of rheumatoid arthritis, scleroderma and SLE, also with 
h/o of recurrent osteomyelitis of her digits, most recently 
treated ___ for 10 weeks for MSSA and CONS with 
vancomycin, p/w acute onset of burning/sharp pain that radiates 
from the right side of her lumber spine, down the right groin 
onto her right vulva. She states she also feels intermittent 
spasms of her anal sphincter. There is no numbness or weakness 
of the lower extremities, and no reports of urinary or fecal 
incontinence. Patient denies fever or chills or night sweats. 
She has history of of back pain in the past few years that has 
generally been controlled over time. The pain she is having 
right now, ___ at its worst, is the worst pain she has ever 
experienced, and keeps her from getting up or walking. She 
denies numbness, tingling or weakness of her extremities. 
Patient has an IUD in place. She denies pelvic pain, vaginal 
discharge, bleeding or pain. She does have a gassy feeling in 
her abdomen and notes some mild discomfort. She also denies 
dysuria or increased frequency or urgency.  
.  
In the ED, initial vital signs were pain ___, T 98.7, P ___, 
BP 141/109, R 20. Rectal exam was reportedly performed and 
showed good tone. CT of pelvis was ordered and showed no occult 
fracture. The patient received total 8 mg IV hydromorphone and 
15 mg IV diazepam for muscle spasm. CBC and Chem7 was ordered 
and pending at the time of transfer. Vitals prior to transfer 
were 96.7 106 141/89 98 ra. Patient was admitted to inpatient 
for pain control and possible L-spine MRI.  
.  
Currently, patient reports ___ pain, similar in distribution to 
that noted above. The pain is exacerbated by movement, and is 
sharp and shooting when it occurs. She currently notes no 
numbness or weakness of her extremities. Patient has a Foley 
catheter in place due to inability to get up to urinate because 
of being afraid of the pain that might ensue.  
.  
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, nausea, vomiting, diarrhea, constipation, 
BRBPR, melena, hematochezia, dysuria, hematuria. 
 
Past Medical History:
* Mixed connective tissue disease  (RA, Scleroderma, SLE)
* Recurrent finger osteomyelitis  
--___ parasilopsis ___ s/p fluconazole x3 months  
--Enterococcus species ___ debrided ___ and treated with 
vancomycin x6 weeks  
--MSSA isolated ___ treated empirically with vancomycin - 
had tongue/lip numbness with test dose of nafcillin so resumed 
vancomycin, s/p debridement ___ with hardware removal from ___ 
digit. Returned with fevers ___ and underwent debridement ___ 
of right thumb abscess  
--___ parasilopsis again isolated ___, treated with 
fluconazole  
* Coag negative staph ?line infection versus contaminant ___  
* Raynauds  
* Lupus anticoagulant  
* GERD  

 
Social History:
___
Family History:
Father with coronary disease  
Mother with uncontrolled diabetes  
Also in her family are people with malignancy of stomach, 
prostate, colon
 
Physical Exam:
PE on Admission-
.
VS: T 98.7 BP 140/80 P ___ R 18 Sat 100%RA  
GENERAL: Well-appearing woman in NAD, comfortable, appropriate, 
laying still.  
HEENT: NCAT, PERRLA, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no cervical or supraclavicular LAD  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilaterally on anterior exam, no r/rh/wh, good air 
movement, respirations unlabored.  
ABDOMEN: Soft, mild tenderness diffusely with mild distention of 
abdomen, normoactive BS, no masses or HSM, no rebound/guarding.  

EXTREMITIES: cool lower extremities, no c/c/e, 2+ peripheral 
pulses. Right great toe with bandage covering, no noted swelling 
or erythema around area.  
SKIN: No rashes or lesions noted  
NEURO: Awake but drowsy, A&Ox3, muscle strength ___ throughout 
in lower extremities, sensation grossly intact throughout, DTRs 
2+ and symmetric, downgoing toes bilaterally  
.
.
PE on Discharge-
VS- tc98.1, bp126/84 h115 r18 s100%RA  
GENERAL: AAOx3, Well-appearing woman in NAD, comfortable, 
appropriate, walking around her hospital room  
HEENT: NCAT, sclerae anicteric, MMM, OP clear.  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTA bilaterally, no w/c/r, good air movement, 
respirations unlabored.  
ABDOMEN: S/NT/ND, normoactive BS, no masses or HSM, no 
rebound/guarding.  
EXTREMITIES: no c/c/e, 2+ peripheral pulses.  
NEURO: A&Ox3, muscle strength ___ throughout in lower 
extremities, sensation grossly intact throughout, DTRs 2+ and 
symmetric, downgoing toes bilaterally. unchanged from prior.  
BACK: surgical site covered with with steristrips, TTP, no 
induration, erythema, drainage or leakage of fluid.  

 
Pertinent Results:
ADMISSION LABS

___ 08:18AM BLOOD WBC-3.1* RBC-3.59* Hgb-11.9*# Hct-34.0* 
MCV-95 MCH-33.2* MCHC-35.1* RDW-13.6 Plt ___
___ 06:45AM BLOOD Neuts-79.2* Lymphs-13.2* Monos-6.0 
Eos-0.9 Baso-0.8
___ 01:40AM BLOOD Glucose-107* UreaN-9 Creat-0.7 Na-135 
K-3.9 Cl-104 HCO3-21* AnGap-14
___ 08:18AM BLOOD Calcium-8.6 Phos-3.7 Mg-1.7

PERTINENT LABS

___ 04:10PM BLOOD ESR-10
___ 04:10PM BLOOD CRP-0.5
___ 04:10PM BLOOD C3-102 C4-20
___ 06:02PM BLOOD CH 50-Test      

DISCHARGE LABS

NC CT PELVIS ___
FINDINGS: There is no evidence of acute fracture. There is no 
suspicious
sclerotic or lytic lesion. The sacroiliac joints and imaged 
portion of lower
lumbar spine are normal. Except for minimal osteophytic 
spurring, both hips
are unremarkable. Note is made, however, made of a small bony 
fragment along
the lateral margin of the superior acetabular ridge on the right 
(402B:70),
consistent with a small os acetabuli. There is no evidence of 
joint effusion.
 
Imaged soft tissue structures are notable for an intrauterine 
device which
appears centrally positioned within the uterus. Additionally, 
there is a
large hypodense cyst in the left adnexa, which measures 4.9 x 
4.0 x 4.2 cm
(series 3, image 49). The right adnexa appears unremarkable. 
Notably, there
is a Foley catheter presumably positioned within the collapsed 
urinary
bladder, though the inflated balloon appears to be positioned in 
the distal
bladder, well beyond the ureterovesicular junction. Other imaged 
soft tissue
structures are unremarkable.
.
MRI ___
There are no comparison studies on record. Lumbar vertebrae are
normal in height and alignment and normal lumbar lordosis is 
maintained. It
demonstrates normal marrow signal intensity. Intervertebral 
discs are of
normal height and signal intensity. The conus medullaris is 
normal in
morphology and intrinsic signal intensity and terminates at L1 
level.
 
There is no disc herniation, spinal canal or neural foraminal 
narrowing seen.
A small 8-mm right subperineural (Tarlov) cyst is seen at the 
S1-S2 level.
 
There is no abnormal pre- or paravertebral, leptomeningeal or 
radicular foci
of enhancement.
 
Brief Hospital Course:
Ms. ___ is a ___ yo woman with history of mixed connective 
tissue disease and rheumatoid arthritis,(on prednisone and 
leflunomide) who presented with acute onset low back and right 
buttock radicular pain.  
.  
# Back/Buttock pain: 
The patient presented with right lower back pain radiating to 
the groin and pelvis. At the time of presentation there was no 
numbness, weakness or incontinence that would suggest cauda 
equina syndrome, and rectal tone was reported to be normal.  She 
went on to develop numbness of the right labia.  An MRI was 
obtained to evaluate for possible cord compression.  The imaging 
revealed an 8mm Tarlov cyst compressing the S2 nerve root, 
consistent with the patient's distribution of pain and numbness. 

.
Neurology and Neurosurgery consults were obtained, both of whom 
initially recommended conservative management for pain control.  
Pain management declined to perform an S2 nerve block secondary 
to the risk of infection in an immunosuppressed individual.  The 
patient's symptoms did not improve with this conservative 
approach and her pain continued to worse.  The patient underwent 
a S1-S2 bilateral laminectomy on ___.  She tolerated the 
procedure well with no immediate complications.  She continued 
to have some pain following her operation, but it was much 
improved.  She was able to ambulate well with the physical 
therapist prior to discharge.
.  
# Mixed connective tissue disease/rheumatoid arthritis:  
The patient was evaluated by the rheumatologists who recommended 
continuing her home medications: prednisone and leflunomide.  
They felt her rheumatological diseases were stable and not 
contributing to her current symptoms. 
.  
# Recurrent osteomyelitis: 
The patient recently finished IV antibiotic course for her 
recurrent osteomyelitis and is currently on PO doxycycline for 
suppression therapy, which was continued during this 
hospitalization.  
.  
Chronic Medical Problems
# Hypertension: Continued home meds, well controlled. 
# Asthma: Exercise-induced, patient reports symptoms stable.  A 
PRN albuterol inharler was provided but was not used.   
# Tobacco use: Pt was provided with a nicotine patch and 
lozenges if she requested.
# GERD: Continued home dose pantoprazole  
__________________________________________________________
__________________________________________________________
Transition of Care:
-Pt sent home with her current in hospital pain regimen at the 
current doses to keep her pain adequately controlled for 2 weeks 
until she is able to see her PCP to assess her level of pain and 
determine and adequate nacrotic taper.

 
Medications on Admission:
Albuterol sulfate 90 mcg IH TID PRN wheezing/SOB  
Amitriptyline 20 mg PO QHS PRN pain  
Amlodipine 5 mg PO daily  
Leflunomide 30 mg PO daily  
Azelastine 205.5 mcg intranasal spray 2 sprays BID  
Doxycycline 100 mg PO BID  
Fluticasone 50 mcg spray 2 puffs intranasal daily  
Meloxicam 15 mg PO daily  
Metoprolol succinate 100 mg PO daily  
Montelukast 10 mg PO daily  
Oxycodone ___ mg PO q4-6h PRN pain  
Pantoprazole 40 mg PO daily  
Prednisone 10 mg PO daily  
Sildenafil 10 mg PO daily  
Tizanidine 20 mg PO q8h PRN back spasm  
Diphenhydramine ___ mg PO BID  
Docusate sodium 100 BID
.
ALLERGIES:  
Nafcillin (lip and tongue numbness) - seen by allergy okay to 
use  
penicillins in the future  
Sulfa - neutropenia  
ACEI - Angioedema  
Embrel - Hives  
Seasonal Allergies 
 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. doxycycline hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
3. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
7. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.
Disp:*30 * Refills:*0*
8. amitriptyline 10 mg Tablet Sig: Four (4) Tablet PO HS (at 
bedtime) as needed for pain.  
9. leflunomide 10 mg Tablet Sig: Three (3) Tablet PO daily ().  
10. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours) as needed for pain.  
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
12. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).
Disp:*180 Capsule(s)* Refills:*0*
13. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation every eight (8) hours as needed for 
sob/wheezing.  
14. azelastine 0.15 % (205.5 mcg) Spray, Non-Aerosol Sig: Two 
(2) Spray Nasal twice a day.  
15. fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal once a day.  
16. meloxicam 15 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for pain.  
17. metoprolol succinate 100 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO once a day.  
18. diphenhydramine HCl 25 mg Tablet Sig: ___ Tablets PO twice a 
day.  
19. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours).
Disp:*5 Tablet(s)* Refills:*0*
20. oxycodone 30 mg Tablet Extended Release 12 hr Sig: Three (3) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours) for 14 
days.
Disp:*102 Tablet Extended Release 12 hr(s)* Refills:*0*
21. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain for 17 days: Do not take more than 16 
tablets a day.
Disp:*204 Tablet(s)* Refills:*0*
22. Outpatient Physical Therapy
___ yo F with h/o MCTD and RA p/w acute on chronic LBP found to 
have tarlov cyst on S2. Pt is s/p S1-S2 laminectomy on ___. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: S2 neuropathy secondary to Tarlov cyst
SECONDARY DIAGNOSIS: mixed connective tissue disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure taking care of you during this 
hospitalization.  You were admitted to the hospital for severe 
right buttock and leg pain and numbness. We were initially 
concerned that you might have an infection, but we did an MRI 
that showed there was no infection.  It also showed that you had 
a 9mm Tarlov cyst compressing the S2 nerve root, and causing 
your pain and numbness. You were started on medications to 
control you pain, and you worked with a physical therapist.  
When it was clear that medical management was not going to be 
sufficient to control your pain it was decided that surgery may 
be the best option.

You underwent a S1-S2 bilateral laminectomy on ___.  The 
neurosurgeons felt the procedure went well.  You continued to 
have numbness, however some of the spasms that were causing you 
pain appear to have subsided.  A repeat MRI showed that the cyst 
had decreased in size following your surgery.  We hope you 
continue to feel better and medically improve.

MEDICATION CHANGES
- Increase amitryptiline to 40 mg at bedtime
- Begin taking acetaminophen 1g every 8 hours
- Begin taking gabapentin 800 mg every 8 hours 
- Complete course of ciprofloxacin 500 mg twice daily through 
___
- Take as needed senna and/or Miralax for constipation
- Continue taking Oxycontin 90 mg every 12 hours and 
hydromorphone ___ tablets every three hours as needed for pain.  


 
Followup Instructions:
___